US07557244B2
a) 2-[5-(4-Methoxy-3-trifluoromethyl-phenoxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester
The title compound was prepared in 25% yield from 2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester and 4-methoxy-3-trifluoromethylphenylboronic acid under the conditions described in Example 15, step (g).

reactant | 2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoic acid methyl ester | COC(C(CC(C)C)C=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C20H21F3O3
reactant | 4-methoxy-3-trifluoromethylphenylboronic acid | COC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C8H8BF3O3
product | 2-[5-(4-Methoxy-3-trifluoromethyl-phenoxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid methyl ester | 25% yield | COC(C(CC(C)C)C=1C=C(C=C(C1)OC1=CC(=C(C=C1)OC)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C28H26F6O4
